US08222416B2
To a suspension of 1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridine (3 g, 8.06 mmol) in dry tetrahydrofuran (40 mL) at −78° C. was added freshly prepared lithium diisopropylamide [prepared by adding 1.6 M n-butyllithium in n-hexane (8.1 mL, 13.0 mmol) to a 0° C. solution of diisopropylamine (2 mL, 13.8 mmol) in dry tetrahydrofuran (20 mL)] dropwise. The mixture was stirred at −78° C. for 5 min and then cyclopentanecarbaldehyde (1.35 g, 13.0 mmol) was added dropwise. The resulting mixture was stirred at −78° C. for 1 h and quenched with brine. The mixture was extracted with ethyl acetate (2×150 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 25% ethyl acetate/hexanes) afforded 1-[1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanol as a light yellow solid (850 mg, 22%): LC/MS m/e calcd for C26H32N2O5S [M+H]+ 485.62, observed 485.1.

reactant | 1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridine | 8.06 mmol, 3 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)CC2OC(OC2)(C)C | C19H20N2O4S
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | n-hexane | 13.0 mmol, 8.1 mL | CCCCCC | C6H14
reactant | diisopropylamine | 13.8 mmol, 2 mL | C(C)(C)NC(C)C | C6H15N
reactant | cyclopentanecarbaldehyde | 13.0 mmol, 1.35 g | C1(CCCC1)C=O | C6H10O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-[1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanol | 850 mg, 22% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)CC2OC(OC2)(C)C)C(CC2CCCC2)O | C26H32N2O5S
